US09193741B2
Synthesis of 2-(4-fluorophenyl)-7-(methylthio)thiazolo[5,4-d]pyrimidin-5-amine
To a solution of 5-amino-2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidine-7-thiol (1.2 g, 4.31 mmol) and triethylamine (1.50 ml, 10.8 mmol) in DMSO (25 ml) was added iodomethane (0.54 ml, 8.62 mmol). The reaction mixture was stirred for 12 h under N2 at 25° C. The mixture was poured into water and extracted with EtOAc. The organic extracts were dried over Na2SO4 and the solvents were removed under reduced pressure. The crude residue was purified by flash chromatography on silica (CH2Cl2/MeOH 80:1), yielding the title compound as a light yellow solid (0.76 g, 60%).

reactant | 5-amino-2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidine-7-thiol | 4.31 mmol, 1.2 g | NC=1N=C(C2=C(N1)SC(=N2)C2=CC=C(C=C2)F)S | C11H7FN4S2
reactant | triethylamine | 10.8 mmol, 1.50 ml | C(C)N(CC)CC | C6H15N
reactant | iodomethane | 8.62 mmol, 0.54 ml | IC | CH3I
reactant | water | O | H2O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 2-(4-fluorophenyl)-7-(methylthio)thiazolo[5,4-d]pyrimidin-5-amine | 0.76 g, 60% | FC1=CC=C(C=C1)C=1SC=2N=C(N=C(C2N1)SC)N | C12H9FN4S2
